US08039472B2
1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid
1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid methyl ester (185 mg, 0.626 mmol) is suspended in a mixture of MeOH (3 ml) and 2 M NaOH (2 ml). The suspension is stirred at room temperature for 2 hours, THF (1 ml) is added and the reaction is heated at 60° C. for 1 hour. The reaction is allowed to cool to room temperature and diluted with sat. NH4Cl solution (10 ml), extracted with EtOAc (10 ml×3), dried over MgSO4, and concentrated in vacuo to give the title compound; [M+H]+ 282

reactant | 1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid methyl ester | 0.626 mmol, 185 mg | COC(=O)C=1C=2C=CN(C2C=CC1)CCOC1=CC=CC=C1 | C18H17NO3
reactant | THF | 1 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3 ml | CO | CH4O
solvent | NaOH | 2 M, 2 ml | [OH-].[Na+]
solvent | NH4Cl | 10 ml | [NH4+].[Cl-]
product | 1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid | O(C1=CC=CC=C1)CCN1C=CC=2C(=CC=CC12)C(=O)O | C17H15NO3
